US07329680B2
1. Ethyl-2,6-diphenyl-isonicotinate
A solution of phenylboronic acid (915 mg, 7.50 mmol) in methanol (15 mL) was added to a stirred solution of ethyl-2,6-dichloro-isonicotinate (750 mg, 3.41 mmol) and tetrakis-(triphenylphosphine)-palladium(0) (197 mg, 5 mol %) in toluene (60 mL). 2N sodium carbonate (3.41 mL, 6.82 mmol) was added and the reaction was heated to 90° C. (oil bath temp.) for 2-3 hrs until complete (TLC control). The reaction mixture was cooled to room temperature and partitioned between water and diethyl ether. The phases were separated, the aqueous phase being further extracted with diethyl ether (3×30 mL). The combined extract was washed with water and brine. The ethereal solution was dried over anhydrous MgSO4, filtered and concentrated in vacuo to yield the title compound as a white solid (941 mg, 91%); Rf: 0.5 (30% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 8.18 (2H, s, ArH), 8.12 (4H, m, ArH), 7.42 (6H, m, ArH), 4.38 (2H, q, J=7 Hz, CH2O), 1.39 (2H, t, J=7 Hz, CH3)

reactant | phenylboronic acid | 7.50 mmol, 915 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl-2,6-dichloro-isonicotinate | 3.41 mmol, 750 mg | C(C)OC(C1=CC(=NC(=C1)Cl)Cl)=O | C8H7Cl2NO2
reactant | sodium carbonate | 6.82 mmol, 2N, 3.41 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 197 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl-2,6-diphenyl-isonicotinate | 941 mg, 91% | C(C)OC(C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H17NO2
